US07858632B2
To a solution of N*2*-Ethyl-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine (1.65 g, 4.12 mmol) in anhydrous DMF (10 ml) was added CuCN, and the reaction mixture was heated to 120° C. for 3 hrs. The reaction mixture was poured into water (200 ml) and the insoluble portion was collected by filtration. The solid was triturated with 10% MeOH/methylene chloride/0.1% NH4OH solution (100 ml) and filtered again. The filtrate was concentrated and flash chromatographed on silica (3% MeOH in methylene chloride with 0.1% NH4OH) to give 5-(4-Amino-2-ethylamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-benzonitrile (0.87 g, 71% ) as a white solid.

reactant | N*2*-Ethyl-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 4.12 mmol, 1.65 g | C(C)NC1=NC=C(C(=N1)N)OC1=C(C=C(C(=C1)I)OC)C(C)C | C16H21IN4O2
reactant | CuCN | C(#N)[Cu]
reactant | water | 200 ml | O | H2O
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 5-(4-Amino-2-ethylamino-pyrimidin-5-yloxy)-4-isopropyl-2-methoxy-benzonitrile | 0.87 g, 71% | NC1=NC(=NC=C1OC=1C(=CC(=C(C#N)C1)OC)C(C)C)NCC | C17H21N5O2
